US04593102
3-[(3-Chlorophenyl)sulfonyl]piperidine hydrochloride
A mixture of 13.79 g (0.033 mole) of 3-[(3-chlorophenyl)sulfonyl]-1-[(4-methylphenyl)sulfonyl]piperidine and excess phenol in 300 ml of 48% hydrobromic acid was refluxed for 11/2 hr and then was poured over ice. The aqueous mixture was made basic with 50% sodium hydroxide and extracted with methylene chloride. The methylene chloride extract was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil, the free base of the title compound. A solution of the oil in methanol was treated with excess ethereal hydrogen chloride, ether was added to give the hydrochloric acid salt which was recrystallized from methanol-ether to give 8.03 g (81.5%) white crystals, m.p. 179°-181° C.

reactant | 3-[(3-chlorophenyl)sulfonyl]-1-[(4-methylphenyl)sulfonyl]piperidine | 0.033 mole, 13.79 g | ClC=1C=C(C=CC1)S(=O)(=O)C1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H20ClNO4S2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 300 ml | Br | BrH
product | 3-[(3-Chlorophenyl)sulfonyl]piperidine hydrochloride | Cl.ClC=1C=C(C=CC1)S(=O)(=O)C1CNCCC1 | InChI=1S/C11H14ClNO2S.ClH/c12-9-3-1-4-10(7-9)16(14,15)11-5-2-6-13-8-11;/h1,3-4,7,11,13H,2,5-6,8H2;1H
